US07427612B2
rac-4-(2-Iodo-5-methanesulfonyl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of rac-3-Methyl-piperazine-1-carboxylic acid tert-butyl ester (350 mg, 1.75 mmol) in dimethylformamide (3 ml) were added 2-Iodo-5-methanesulfonyl-benzoic acid (540 mg, 1.67 mmol), N-ethyldiisopropylamine (1.8 ml, 10.5 mmol), and TBTU (630 mg, 1.92 mmol). The reaction mixture was then allowed to stir at room temperature for 16 hours. The reaction mixture was then concentrated in vacuo and the residue was purified by column chromatography (SiO2, 20 g, Heptane/EtOAc 0-100%) to give the title compound (400 mg, 45%). MS (m/e): 526.2 (M+NH4+).

reactant | rac-3-Methyl-piperazine-1-carboxylic acid tert-butyl ester | 1.75 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C | C10H20N2O2
reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | 1.67 mmol, 540 mg | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | N-ethyldiisopropylamine | 10.5 mmol, 1.8 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.92 mmol, 630 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | rac-4-(2-Iodo-5-methanesulfonyl-benzoyl)-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 400 mg, 45% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)I)=O)C | C18H25IN2O5S
